US06887889B2
To a stirred solution of 4-(4-iodo-phenyl)-4-(isobutoxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester (0.075 g, 0.15 mmol) in CH2Cl2 (1.5 mL) at 0° C. was added TFA (0.5 mL). The mixture was stirred at room temperature for 3 h. TLC (4:1 hexanes/EtOAc) showed no starting material left. The solvent was removed by rotary evaporation and the resulting liquid was evaporated from toluene (2×10 mL), diluted with EtOAc (100 mL) and washed with 10% aqueous NaHCO3 solution (2×50 mL) and saturated brine (50 mL). The organic layer was dried over anhydrous Na2SO4, filtered, concentrated by rotary evaporation and dried under high vacuum for 1 h to give [4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester as a reddish solid (0.058 g, ˜0.14 mmol). MS (ESI): 417.1/418.1(M+1).

reactant | 4-(4-iodo-phenyl)-4-(isobutoxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 0.075 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC(=O)OCC(C)C)C1=CC=C(C=C1)I | C22H33IN2O4
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | [4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester | ˜0.14 mmol, 0.058 g | C(C(C)C)OC(NCC1(CCNCC1)C1=CC=C(C=C1)I)=O | C17H25IN2O2
